US08937078B2
Step E: Preparation of 1-(7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester.
A mixture of 2,7-dichloro-4-(2-methoxy-ethoxymethoxy)-quinazoline (0.68 g, 2.2 mmol), ethyl pyrazole-4-carboxylate (0.34 g, 2.4 mmol), Cs2CO3 (1.2 g, 3.6 mmol) and anhydrous DMF (10 mL) was heated to 120° C. for 20 min, and then was cooled to 0° C. The mixture was carefully diluted with 1 M aq. HCl (30 mL). The mixture was allowed to warm to rt and the precipitate was collected by filtration to provide the titled compound (0.35 g, 50%). MS (Cl): mass calcd. for C14H11ClN4O3, 318.7; m/z found, 317.0 [M−H]−. 1H NMR (400 MHz, DMSO-d6): 13.04 (br s, 1H), 8.99 (s, 1H), 8.32 (s, 1H), 8.11 (d, J=8.5 Hz, 1H), 7.75 (s, 1H), 7.54 (dd, J=8.5, 2.1 Hz, 1H), 4.30 (q, J=7.1 Hz, 2H), 1.33 (t, J=7.1 Hz, 3H).

reactant | 2,7-dichloro-4-(2-methoxy-ethoxymethoxy)-quinazoline | 2.2 mmol, 0.68 g | ClC1=NC2=CC(=CC=C2C(=N1)OCOCCOC)Cl | C12H12Cl2N2O3
reactant | ethyl pyrazole-4-carboxylate | 2.4 mmol, 0.34 g | N1N=CC(=C1)C(=O)OCC | C6H8N2O2
reactant | Cs2CO3 | 3.6 mmol, 1.2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | HCl | 1 M, 30 mL | Cl | ClH
product | 1-(7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.35 g, 50% | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC(=CC=C2C(N1)=O)Cl | C14H11ClN4O3
